US07842685B2
DIBAL-H (11.0M in hexanes; 315 μl, 315 μmol) was added to a solution of 3-methyl-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)benzonitrile (105.2 mg, 286 μmol) in CH2Cl2 (4.5 mL) at 25° C., and the resulting solution was stirred at 25° C. for 45 min. Additional DIBAL-H (1.0M in hexanes; 86 μL, 86 μmol) was then added, and the resulting solution was stirred at 25° C. for 30 min. Saturated aqueous Na/K tartrate solution (4.0 mL) was added, and the resulting mixture was vigorously stirred for 15 min, then partitioned between CH2Cl2 (40 mL) and saturated. Aqueous Na/K tartrate solution (10 mL). The organic layer was separated, and the aqueous layer was extracted with CH2Cl2. The combined organic extracts were dried over MgSO4, filtered, and concentrated in vacuo. Chromatographic purification of the residue (silica gel, 0-40% EtOAc/hexanes) provided 3-methyl-4-(5-(1-phenylcyclopropyl)-thiazolo[5,4-b]pyridine-2-yl)-benzaldehyde as a light-yellow foam. MS (ESI) m/z: Calculated: 370.1; Observed: 371.1 (M++1).

reactant | DIBAL-H | 315 μmol, 11.0M, 315 μl | CC(C)C[AlH]CC(C)C
reactant | 3-methyl-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)benzonitrile | 286 μmol, 105.2 mg | CC=1C=C(C#N)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C23H17N3S
reactant | DIBAL-H | 86 μmol, 1.0M, 86 μL | CC(C)C[AlH]CC(C)C
reactant | tartrate | 4.0 mL | C(=O)([O-])C(O)C(O)C(=O)[O-]
solvent | CH2Cl2 | 4.5 mL | C(Cl)Cl | CH2Cl2
product | 3-methyl-4-(5-(1-phenylcyclopropyl)-thiazolo[5,4-b]pyridine-2-yl)-benzaldehyde | CC=1C=C(C=O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C23H18N2OS
